US07067540B2
To an ice-cold solution of 1-(3-fluorobenzyl)-4-hydroxy-1H-pyridin-2-one (0.67 g, 3.1 mmol) in AcOH (5.7 mL) was added a solution of bromine (0.52 g, 3.24 mmol) in AcOH (10.8 mL), and the reaction mixture was stirred for 5 min. The reaction mixture was warmed to room temperature and concentrated under reduced pressure to afford 3-bromo-1-(3-fluorobenzyl)-4-hydroxy-1H-pyridin-2-one as a yellow solid (1.07 g, crude): 1H NMR (500 MHz, MeOD) δ 7.64 (d, J=8 Hz, 1H), 7.35-7.30 (m, 1H), 7.05-6.90 (m, 3H), 6.20 (d, J=8 Hz, 1H), 5.18 (s, 2H).

reactant | 1-(3-fluorobenzyl)-4-hydroxy-1H-pyridin-2-one | 3.1 mmol, 0.67 g | FC=1C=C(CN2C(C=C(C=C2)O)=O)C=CC1 | C12H10FNO2
reactant | bromine | 3.24 mmol, 0.52 g | BrBr | Br2
solvent | AcOH | 5.7 mL | CC(=O)O | C2H4O2
solvent | AcOH | 10.8 mL | CC(=O)O | C2H4O2
product | 3-bromo-1-(3-fluorobenzyl)-4-hydroxy-1H-pyridin-2-one | BrC=1C(N(C=CC1O)CC1=CC(=CC=C1)F)=O | C12H9BrFNO2
